US07417062B2
Step 2: 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid (1-isoquinolin-3-yl-ethyl)-[(2S,3aS,7aS)-1-(octahydro-indol-2-yl)methyl]-amide.
Experimental conditions analogous to Example 1, from 0.19 g (0.68 mmol) of 1-isoquinolin-3-yl-ethanone trifluoroacetic acid salt (neutralized in situ with 95 μL (0.68 mmol) of triethylamine, 0.20 g (0.82 mmol) of (2S,3aS,7aS)-2-aminomethyl-octahydro-indole-1-carboxylic acid tert-butyl ester, 6 mL dichloromethane, and 0.21 g (1.02 mmol) of sodium triacetoxyborohydride. The benzoylation/deprotection steps were done using 284 μL (2.04 mmol) of triethylamine and 0.15 g (0.61 mmol) of 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride. The residue from the organic layer was purified using reverse phase HPLC, mobile phase with a gradient 15-80% acetonitrile in 50 min. The residue was dissolved in dichloromethane, washed with aqueous sodium bicarbonate, dried with anhydrous magnesium sulfate and evaporated in vacuum to yield 17 mg of the product as the free base mixture of diastereoisomers. LC-MSD, m/z for C31H37N3O4 [M+H]+: 516.7, [M+2H]2+: 258.9. 1H NMR (400 MHz, CDCl3): δ 1.2-2.1 (m, 20 H), 3.0-4.0 (m, 7 H), 5.4-5.5 (m, 1 H), 6.7-6.8 (m, 1 H), 7.0-7.1 (m, 1 H), 7.4-7.9 (m, 4 H), 7.9-8.0 (m, 1 H), 9.2-9.3 (m, 1 H).

reactant | 1-isoquinolin-3-yl-ethanone trifluoroacetic acid salt | 0.68 mmol, 0.19 g | FC(C(=O)O)(F)F.C1=NC(=CC2=CC=CC=C12)C(C)=O
reactant | triethylamine | 0.68 mmol, 95 μL | C(C)N(CC)CC | C6H15N
reactant | (2S,3aS,7aS)-2-aminomethyl-octahydro-indole-1-carboxylic acid tert-butyl ester | 0.82 mmol, 0.20 g | C(C)(C)(C)OC(=O)N1[C@@H](C[C@@H]2CCCC[C@H]12)CN | C14H26N2O2
reactant | sodium triacetoxyborohydride | 1.02 mmol, 0.21 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | triethylamine | 2.04 mmol, 284 μL | C(C)N(CC)CC | C6H15N
reactant | 7-methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carbonyl chloride | 0.61 mmol, 0.15 g | COC1=CC(=CC2=C1OC(O2)(C)C)C(=O)Cl | C11H11ClO4
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
product | 7-Methoxy-2,2-dimethyl-benzo[1,3]dioxole-5-carboxylic acid (1-isoquinolin-3-yl-ethyl)-[(2S,3aS,7aS)-1-(octahydro-indol-2-yl)methyl]-amide | 17 mg | C1=NC(=CC2=CC=CC=C12)C(C)N(C(=O)C1=CC2=C(OC(O2)(C)C)C(=C1)OC)C[C@H]1N[C@H]2CCCC[C@H]2C1 | C31H37N3O4
